US05403852
7.3 g of phosphorus oxychloride are added to a solution of 5.75 g of (RS)-1,2-diphenyl-2-(7-cyanooctanamido)ethanone in 30 cm3 of toluene, and the mixture is heated to 80° C. for 6 hours. After treatment, the product obtained is chromatographed on a column 2 cm in diameter containing 60 g of silica gel (50 to 200μ). The column is eluted with 0.6 liter of diisopropyl ether, collecting 50 cm3 fractions. The fractions emerging at between 0.1 liter and 0.6 liter are concentrated under reduced pressure (0.2 kPa). 4.2 g (76%) of (RS)-7-(4,5-diphenyl-2-oxazolyl)-2-methylheptanenitrile are obtained in the form of an oil, which is used directly in the subsequent reaction.

reactant | phosphorus oxychloride | 7.3 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | (RS)-1,2-diphenyl-2-(7-cyanooctanamido)ethanone | 5.75 g | C1(=CC=CC=C1)C(C(NC(CCCCCC(C)C#N)=O)C1=CC=CC=C1)=O | C23H26N2O2
solvent | toluene | 30 cm3 | C1(=CC=CC=C1)C | C7H8
product | (RS)-7-(4,5-diphenyl-2-oxazolyl)-2-methylheptanenitrile | 4.2 g, 76% | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CCCCCC(C#N)C | C23H24N2O
